US08008483B2
a) Preparation of 1-(4-chloro-1,3,5-triazin-2-yl)-N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide
To a solution of N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide (315 mg, 1.10 mmol, 1.10 equiv) in acetonitrile (5 ml) at room temperature, 2,4-dichloro-1,3,5-triazine (150 mg, 1.00 mmol, 1.00 equiv) and diisopropylethylamine (DIEA, 0.875 ml, 5.00 mmol, 5.00 equiv) were added. The reaction mixture was stirred for 3 h at room temperature. Without workup or purification, the reaction was carried forward to the next step. MS (ES+): m/e 401.8 [M+H]+

reactant | N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide | 1.10 mmol, 315 mg, 1.10 equiv | FC(C1=C(C=CC=C1)CNC(=O)C1CCNCC1)(F)F | C14H17F3N2O
reactant | 2,4-dichloro-1,3,5-triazine | 1.00 mmol, 150 mg, 1.00 equiv | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | diisopropylethylamine | 5.00 mmol, 0.875 ml, 5.00 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-(4-chloro-1,3,5-triazin-2-yl)-N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide | ClC1=NC(=NC=N1)N1CCC(CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C17H17ClF3N5O
